US09193707B2
2. Synthesis of 2-amino-5-fluorobenzamide
Into a 500-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a mixture of 5-fluoro-2-nitrobenzamide (17.5 g, 95.04 mmol, 1.00 equiv) and palladium carbon (10%) (1.75 g, 0.10 equiv) in methanol (150 mL). To the above H2 (enough) was introduced. The resulting solution was stirred for 2 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 12.0 g (82%) of 2-amino-5-fluorobenzamide as a white solid. MS (ESI) m/z 155 ([M+H]+).

reactant | 5-fluoro-2-nitrobenzamide | 95.04 mmol, 17.5 g, 1.00 equiv | FC=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C7H5FN2O3
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium carbon | 1.75 g, 0.10 equiv | [C].[Pd]
product | 2-amino-5-fluorobenzamide | NC1=C(C(=O)N)C=C(C=C1)F | C7H7FN2O
